US08709615B2
A 1 L round bottom flask was charged with 2,4-dichloropyridine (30 g, 203 mmol), phenylboronic acid (24.7 g, 203 mmol), potassium carbonate (84 g, 608 mmol), Pd(PPh3)4 (2.3 g, 2.0 mmol), dimethoxyethane (500 mL) and water (150 mL). The mixture was degassed and heated to reflux for 20 h. After cooling, the aqueous layer was extracted with EtOAc; the organic portion was combined and subjected to column chromatography (SiO2, 5% EtOAc in hexane to 10% EtOAc in hexane) to give 34 g (88%) of 4-chloro-2-phenylpyridine. The product was confirmed by GC/MS and NMR.

reactant | 2,4-dichloropyridine | 203 mmol, 30 g | ClC1=NC=CC(=C1)Cl | C5H3Cl2N
reactant | phenylboronic acid | 203 mmol, 24.7 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | potassium carbonate | 608 mmol, 84 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethoxyethane | 500 mL | C(OC)COC | C4H10O2
catalyst | Pd(PPh3)4 | 2.0 mmol, 2.3 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 150 mL | O | H2O
product | 4-chloro-2-phenylpyridine | 34 g, 88% | ClC1=CC(=NC=C1)C1=CC=CC=C1 | C11H8ClN
